US07220856B2
Preparation of 4-(2-Amino-7-chloro-4-quinolinyl)-N-cycloheptyl-1-piperazinecarboxamide
As described for example 78, cycloheptylamine, 4-nitrophenyl chloroformate, diisopropyl(ethyl)amine, and 7-chloro-4-(1-piperazinyl)-2-quinolinamine are reacted to afford the product as a light yellow solid. LC-MS: 402 (M++1). 1H NMR (CDCl3) δ 7.75 (d, 1H), 7.62 (s, 1H), 7.15 (d, 1H), 6.15 (s, 1H), 4.78 (s, 2H), 4.40 (d, 1H), 3.90 (m, 1H), 3.60 (m, 4H), 3.10 (m, 4H), 1.95 (m, 2H) 1.40–1.65 (m, 10H).

reactant | cycloheptylamine | C1(CCCCCC1)N | C7H15N
reactant | 4-nitrophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropyl(ethyl)amine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 7-chloro-4-(1-piperazinyl)-2-quinolinamine | ClC1=CC=C2C(=CC(=NC2=C1)N)N1CCNCC1 | C13H15ClN4
product | 4-(2-Amino-7-chloro-4-quinolinyl)-N-cycloheptyl-1-piperazinecarboxamide | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)NC1CCCCCC1)Cl | C21H28ClN5O
